US07125840B2
4-Bromomethyl-3-(4-chlorophenyl)-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide, made as described in Example 2, (270 mg, 0.69 mmol) was dissolved in ethanol (30 mL). Methylamine (70% solution in water, 8 mL) was added and the mixture was stirred overnight at room temperature and concentrated. The residue was dissolved in CH2Cl2, washed with water and extracted with 0.5 M HCl. After addition of NaOH and extraction with CH2Cl2 the organic layer was dried (Na2SO4) and evaporated to yield 80 mg (34%) of 3-(4-Chlorophenyl)-4-methylaminomethyl-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide as a solid. MS (IS): 341 [MH]+

reactant | 4-Bromomethyl-3-(4-chlorophenyl)-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide | BrCC1=C(S(NC12CCCCC2)(=O)=O)C2=CC=C(C=C2)Cl | C15H17BrClNO2S
reactant | Methylamine | 8 mL | CN | CH5N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-(4-Chlorophenyl)-4-methylaminomethyl-2-thia-1-azaspiro[4.5]dec-3-ene 2,2-dioxide | 80 mg, 34% | ClC1=CC=C(C=C1)C=1S(NC2(C1CNC)CCCCC2)(=O)=O | C16H21ClN2O2S
